US04386211
To a stirred solution of 15.1 g (151 mmole) of 2-aminothiazole in 200 ml of dry pyridine is added slowly 18.8 g (173 mmole) of ethyl chloroformate. After approximately 1 day, insolubles are removed by filtration and discarded and the filtrate is concentrated at reduced pressure. The resultant gum is dissolved in aqueous ethanol and redried in vacuo to a sticky solid. The crude product is dissolved in a boiling mixture of 100 ml of ethanol and 25 ml of water, clarified by filtration, and allowed to cool. The resultant crystalline solid is collected and washed thoroughly with water, giving 11.3 g (65.6 mmole) of 2-carbethoxyaminothiazole as a tlc-homogeneous (ethyl acetate eluent on silica gel plates) substance. Structure assignment is supported by the nmr spectrum.

reactant | 2-aminothiazole | 151 mmole, 15.1 g | NC=1SC=CN1 | C3H4N2S
reactant | ethyl chloroformate | 173 mmole, 18.8 g | ClC(=O)OCC | C3H5ClO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 2-carbethoxyaminothiazole | 65.6 mmole, 11.3 g | C(=O)(OCC)NC=1SC=CN1 | C6H8N2O2S
